US07495103B2
To a suspension of 2,4-dichloroquinoline in MeOH (100 mL) was added sodium methoxide (50 g). The mixture was heated at reflux for 2 days. After cooling, the mixture was filtered. The filtrate was concentrated under reduced pressure to yield a residue that was dissolved in water and extracted with CH2Cl2. The combined organic layers were dried over Na2SO4 and concentrated to give 2,4-dimethoxyquinoline as a white solid (13 g, 74% over 2 steps).

reactant | 2,4-dichloroquinoline | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | sodium methoxide | 50 g | C[O-].[Na+]
reactant | MeOH | 100 mL | CO | CH4O
solvent | water | O | H2O
product | 2,4-dimethoxyquinoline | COC1=NC2=CC=CC=C2C(=C1)OC | C11H11NO2
